US06194487B1
Next, the 1,6-diaminohexane vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 3 minutes. Consequently, 1,6-diaminohexane condensed on the surface of the base particles. A polymerization reaction took place between 1,6-diaminohexane condensed on the surface of the base particles and 1,3-benzenedisulfonyl chloride contained therein, forming a film of 1,3-benzenedisulfonylchloride-1,6-diaminohexane co-polymer.

reactant | 1,6-diaminohexane | NCCCCCCN | C6H16N2
reactant | 1,3-benzenedisulfonyl chloride | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
product | 1,3-benzenedisulfonylchloride 1,6-diaminohexane | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl.NCCCCCCN | InChI=1S/C6H4Cl2O4S2.C6H16N2/c7-13(9,10)5-2-1-3-6(4-5)14(8,11)12;7-5-3-1-2-4-6-8/h1-4H;1-8H2
